US05266565
N-(3-Formyl-4-hydroxybenzoyl)phenylalanine methyl ester
87 mmol of dicyclohexylcarbodiimide are added to a stirred suspension, cooled to 10° C, containing 80 mmol of 3-formyl-4-hydroxybenzoic acid (prepared according to H. WYMBERG, J. Am. Chem. Soc., 76, 4998, 1954) and 87 mmol of N-hydroxysuccinimide in 320 ml of chloroform. After re-equilibrating to room temperature, the mixture is kept stirring overnight. The precipitate is then filtered. The filtrate is cooled to 8° C. and treated dropwise, with stirring, with a suspension containing 160 mmol of phenylalanine methyl ester hydrochloride and 160 mmol of triethylamine in 100 ml of anhydrous dimethylformamide. The mixture is stirred for 3 hours at 20° C. and then for 5 hours at 50° C. After cooling and evaporation of the solvents, the residue is taken up in 400 ml of ethyl acetate. After washing this solution with 1N hydrochloric acid and then with water, the organic phase is dried and evaporated. The oily residue leads to the expected product by crystallization from toluene.

reactant | dicyclohexylcarbodiimide | 87 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-formyl-4-hydroxybenzoic acid | 80 mmol | C(=O)C=1C=C(C(=O)O)C=CC1O | C8H6O4
reactant | N-hydroxysuccinimide | 87 mmol | ON1C(CCC1=O)=O | C4H5NO3
reactant | phenylalanine methyl ester hydrochloride | 160 mmol | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | 160 mmol | C(C)N(CC)CC | C6H15N
solvent | chloroform | 320 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-(3-Formyl-4-hydroxybenzoyl)phenylalanine methyl ester | COC([C@@H](NC(C1=CC(=C(C=C1)O)C=O)=O)CC1=CC=CC=C1)=O | C18H17NO5
